US07696221B2
Step 2: 4-[(4-Methoxyphenyl)sulfonyl]-5-methyl-4,5-dihydrothieno[3,2-c]isoquinoline (Compound 7a)
A solution of 4-Methoxybenzenesulfonyl chloride (16 g, 77 mmol), triethylamine (25 mL, 180 mmol), and 4-dimethylaminopyridine (0.20 g, 1.6 mmol) in methylene chloride (100 mL) was de-gassed with nitrogen and treated with a de-gassed methylene chloride (100 mL) solution of 5-Methyl4,5-dihydrothieno[3,2-c]isoquinoline (16 g obtained above) at 23° C. After 21 h the reaction mixture was quenched with 1 N aqueous sodium hydroxide (200 mL). The organic layer was separated and the aqueous phase was extracted with methylene chloride (2×200 mL). The combined extracts were washed with 1 N aqueous sodium hydroxide, 1 N aqueous hydrochloric acid, and brine (200 mL each), dried (K2CO3), and concentrated in vacuo to give the crude product (21 g) as a dark oil. The oil was taken up in methylene chloride (ca. 80 mL) and pre-adsorbed on silica gel (80 g). Flash chromatography on silica gel (400 g) eluting 25-, then 50-, and then 75% methylene chloride-hexane gave the product (16 g) as a yellow solid. Further elution with methylene chloride, then 10-, and then 20% ethyl acetate-methylene chloride gave recovered 5-methylthieno[3,2-c]isoquinoline (1.7 g, 14%) from the previous step. Recrystallization of the product from hot ethyl acetate-hexane provided the title compound (15 g, 79% overall based on recovered starting material from Step 1, m.p. 135-36° C.) as shiny yellow-orange prisms.

reactant | 4-Methoxybenzenesulfonyl chloride | 77 mmol, 16 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 180 mmol, 25 mL | C(C)N(CC)CC | C6H15N
reactant | 5-Methyl4,5-dihydrothieno[3,2-c]isoquinoline | 16 g | CC1NC2=C(C=3C=CC=CC13)SC=C2 | C12H11NS
catalyst | 4-dimethylaminopyridine | 1.6 mmol, 0.20 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | ca. 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4-Methoxyphenyl)sulfonyl]-5-methyl-4,5-dihydrothieno[3,2-c]isoquinoline | 16 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(C=2C=CC=CC2C2=C1C=CS2)C | C19H17NO3S2
